US04731373
A solution of 0.4 g of (R)-2-O-benzyl-1-O-(4-chlorobutyryl)-3-O-octadecylglycerine in 20 ml of glacial acetic acid is treated with 0.120 g of palladium oxide and hydrogen. The catalyst is removed by filtration under suction and the filtrate is dried under reduced pressure. There is obtained (R)-1-O-(4-chlorobutyryl)-3-O-octadecylglycerine of melting point 48° C.

reactant | (R)-2-O-benzyl-1-O-(4-chlorobutyryl)-3-O-octadecylglycerine | 0.4 g | C(C1=CC=CC=C1)O[C@@H](COC(CCCCl)=O)COCCCCCCCCCCCCCCCCCC | C32H55ClO4
reactant | hydrogen | [H][H] | H2
solvent | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
catalyst | palladium oxide | 0.120 g | [Pd]=O
product | (R)-1-O-(4-chlorobutyryl)-3-O-octadecylglycerine | ClCCCC(=O)OC[C@H](O)COCCCCCCCCCCCCCCCCCC | C25H49ClO4
